US08624040B2
To a 50-mL round-bottom flask was added 3-fluoro-4-pyridinecarboxaldehyde (0.8 mL, 8.02 mmol) and N,N-dimethylformamide (14 mL) and the solution was cooled to 0° C. To this solution was added potassium carbonate (1.22 g, 8.828 mmol) and methyl 2-mercaptoacetate (0.754 mL, 8.427 mmol). The solution turned to a clear yellow solution after stirring for 10 min. After 30 min at 0° C., the reaction was warmed to room temperature and stirred over the weekend by which time a solid precipitate was formed. Water was added provide a homogeneous solution, which was cooled to 0° C., the solid was collected via vacuum filtration, and washed with cold water until clear and colorless affording methyl thieno[2,3-c]pyridine-2-carboxylate (1.55 g, 82%) as a white solid. LCMS: (FA) ES+ 194; 1H NMR (d6-DMSO, 300 MHz) δ9.37 (s, 1 H), 8.56 (d, J=5.4 Hz, 1 H), 8.26 (d, J=0.6 Hz, 1 H), 7.97 (dd, J=5.4 Hz, 1.2 Hz, 1 H), 3.92 (s, 3 H).

reactant | 3-fluoro-4-pyridinecarboxaldehyde | 8.02 mmol, 0.8 mL | FC=1C=NC=CC1C=O | C6H4FNO
reactant | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 8.828 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-mercaptoacetate | 8.427 mmol, 0.754 mL | SCC(=O)OC | C3H6O2S
solvent | Water | O | H2O
product | methyl thieno[2,3-c]pyridine-2-carboxylate | 1.55 g, 82% | S1C(=CC=2C1=CN=CC2)C(=O)OC | C9H7NO2S
